US07473784B2
To a solution of ethyl 2-aminobenzo[d]thiazole-6-carboxylate (5.05 g, 22.7 mmol, 1.0 eq.) in THF (60 mL) under nitrogen at 0° C. was added LAH (1M, THF; 100 mL, 100 mmol, 4.4 eq.) over 20 min. After 6.5 h, ice was added, and the solution was stirred overnight. The precipitate was filtered and rinsed with EtOAc. The filtrate was concentrated in vacuo to give a solid which was triturated with Et2O to give (2-aminobenzo[d]thiazol-6-yl)methanol as a yellow solid (1.90 g, 46% yield).

reactant | ethyl 2-aminobenzo[d]thiazole-6-carboxylate | 22.7 mmol, 5.05 g, 1.0 eq. | NC=1SC2=C(N1)C=CC(=C2)C(=O)OCC | C10H10N2O2S
reactant | LAH | 100 mmol, 1M, 100 mL, 4.4 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2-aminobenzo[d]thiazol-6-yl)methanol | 1.90 g, 46% yield | NC=1SC2=C(N1)C=CC(=C2)CO | C8H8N2OS
